US07279469B2
[4-(5-Amino-1-pyridin-2-yl-1H-[1,2,4]triazol-3-ylamino)-phenyl]-piperazin-1-yl-methanone:
A mixture of 4-[4-(5-amino-1-pyridin-2-yl-1H-[1,2,4]triazol-3-ylamino)-benzoyl]-piperazine-1-carboxylic acid tert-butyl ester (22.1 mg) and trifluoroacetic acid (0.50 mL) was stirred at room temperature for 1 h. The reaction mixture was concentrated to give the title compound (13.6 mg) as a white solid. MS (ES+): m/z=365.1; 1H NMR (CD3SOCD3, 500 MHz): δ 3.09-3.23 (m, 4H), 3.63-3.76 (m, 4H), 7.20-7.25 (m, 1H), 7.41 (d, 2H), 7.64-7.74 (m, 4H), 7.95-8.02 (m, 1H), 8.39-8.44 (m, 1H), 8.66-8.95 (m, 2H), 9.44-9.48 (m, 1H).

reactant | 4-[4-(5-amino-1-pyridin-2-yl-1H-[1,2,4]triazol-3-ylamino)-benzoyl]-piperazine-1-carboxylic acid tert-butyl ester | 22.1 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=NN(C(=N1)N)C1=NC=CC=C1)=O | C23H28N8O3
reactant | trifluoroacetic acid | 0.50 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [4-(5-Amino-1-pyridin-2-yl-1H-[1,2,4]triazol-3-ylamino)-phenyl]-piperazin-1-yl-methanone | 13.6 mg | NC1=NC(=NN1C1=NC=CC=C1)NC1=CC=C(C=C1)C(=O)N1CCNCC1 | C18H20N8O
